US07098222B2
1-(4-[6-{2-((2R)-2-Methyl-pyrrolidin-1-yl)-ethyl]-quinolin-2-yl}-phenyl)-1H-pyridin-4-one
The title compound was prepared using the procedure described in Example 1G using 1-(4-acetyl-phenyl)-1H-pyridin-4-one for 1-(4-methyl-2-thiophen-2-yl-thiazol-5-yl)-ethanone. 1H NMR (300 MHz, CDCl3) δ 1.15 (d, J=6.10 Hz, 3H), 1.49 (m, 1H), 1.78 (m, 2H), 1.95 (m, 1H), 2.27 (m, 1H), 2.43 (m, 2H), 3.05 (m, 2H), 3.16 (m, 1H), 3.31 (m, 1H), 6.54 (d, J=7.80 Hz, 2H), 7.49 (d, J=8.48 Hz, 2H), 7.66 (m, 4H), 7.87 (d, J=8.81 Hz, 1H), 8.10 (d, J=8.48 Hz, 1H), 8.22 (d, J=8.48 Hz, 1H), 8.33 (d, J=8.48 Hz, 2H); MS (DCI-NH3) [M+H]+ at 410.

reactant | 1-(4-acetyl-phenyl)-1H-pyridin-4-one | C(C)(=O)C1=CC=C(C=C1)N1C=CC(C=C1)=O | C13H11NO2
reactant | 1-(4-methyl-2-thiophen-2-yl-thiazol-5-yl)-ethanone | CC=1N=C(SC1C(C)=O)C=1SC=CC1 | C10H9NOS2
reactant | NH3 | N | H3N
product | 1-(4-[6-{2-((2R)-2-Methyl-pyrrolidin-1-yl)-ethyl]-quinolin-2-yl}-phenyl)-1H-pyridin-4-one | C[C@H]1N(CCC1)CCC=1C=C2C=CC(=NC2=CC1)C1=CC=C(C=C1)N1C=CC(C=C1)=O | C27H27N3O
